### PR TITLE
Add Erdős Problem 553 (R(3,3,n) versus R(3,n)), link the formal proof

### LINKED ISSUE #6419: Erdős Problem 553
### What is the Erdős problem?

https://www.erdosproblems.com/553

Let $R(3,3,n)$ denote the smallest integer $m$ such that if we $3$-colour the edges of $K_m$ then there is either a monochromatic triangle in one of the first two colours or a monochromatic $K_n$ in the third colour. Define $R(3,n)$ similarly but with two colours. Show that $R(3,3,n)/R(3,n)\to \infty$ as $n\to \infty$.

Status: proved (Alon–Rödl [AlRo05]). A formal proof exists in plby/lean-proofs (`Erdos553.erdos_553`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6419.

### What changed
Adds `FormalConjectures/ErdosProblems/553.lean` with `ramsey33 n` (`R(3,3,n)`, via `TopEdgeLabeling (Fin m) (Fin 3)`) and using the existing `classicalRamsey 3 n`:
- `erdos_553` (`research solved`): `R(3,3,n) / R(3,n) → ∞`.
- `variants.alon_rodl` (sorry'd): `R(3,3,n) ≍ n³ (log n)^{O(1)}`.

The main statement is linked to plby/lean-proofs `Erdos553.erdos_553` (Codex and GPT-5.6 Sol; 33 Mathlib-only files, built on the projective-plane construction of `Erdos925`).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos553.erdos_553` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms. plby encodes a 3-colouring as a pair of triangle-free graphs `red, blue` with `(red ⊔ blue)` having no independent `n`-set; the bridge converts between that and `TopEdgeLabeling (Fin m) (Fin 3)`, and identifies `classicalRamsey 3 n` with plby's two-colour Ramsey number:

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

namespace Bridge553

lemma classicalRamsey_eq (n : ℕ) :
    classicalRamsey 3 n = Erdos553Plby.twoColorRamseyNumber n := by
  unfold classicalRamsey graphRamsey Erdos553Plby.twoColorRamseyNumber
  congr 1
  ext N
  simp only [Set.mem_ofPred_eq, Ramsey.RamseyProperty]
  refine forall_congr' fun C => ?_
  rw [← not_cliqueFree_iff_top_isContained, ← not_cliqueFree_iff_top_isContained,
    cliqueFree_compl, not_and_or]

lemma fin3_eq_two (k : Fin 3) (h0 : k ≠ 0) (h1 : k ≠ 1) : k = 2 := by
  revert k; decide

lemma prop_iff (m n : ℕ) :
    (∀ C : TopEdgeLabeling (Fin m) (Fin 3), ¬ (C.labelGraph 0).CliqueFree 3 ∨
        ¬ (C.labelGraph 1).CliqueFree 3 ∨ ¬ (C.labelGraph 2).CliqueFree n) ↔
      Erdos553Plby.ThreeColorRamseyProperty n m := by
  unfold Erdos553Plby.ThreeColorRamseyProperty
  constructor
  · rintro h red blue ⟨hr, hb, hi⟩
    classical
    let C : TopEdgeLabeling (Fin m) (Fin 3) :=
      EdgeLabeling.mk (fun x y _ => if red.Adj x y then 0 else if blue.Adj x y then 1 else 2)
        (by intro x y _; simp only [red.adj_comm, blue.adj_comm])
    have hget : ∀ x y (h : x ≠ y), C.get x y h =
        if red.Adj x y then 0 else if blue.Adj x y then 1 else 2 := fun x y h => rfl
    rcases h C with h0 | h1 | h2
    · refine h0 (hr.anti fun x y hxy => ?_)
      obtain ⟨hne, hk⟩ := (TopEdgeLabeling.labelGraph_adj x y).1 hxy
      rw [hget] at hk
      by_contra hn
      simp only [hn, if_false] at hk
      split_ifs at hk <;> simp at hk
    · refine h1 (hb.anti fun x y hxy => ?_)
      obtain ⟨hne, hk⟩ := (TopEdgeLabeling.labelGraph_adj x y).1 hxy
      rw [hget] at hk
      by_contra hn
      simp only [hn, if_false] at hk
      split_ifs at hk <;> simp at hk
    · rw [← cliqueFree_compl] at hi
      refine h2 (hi.anti fun x y hxy => ?_)
      obtain ⟨hne, hk⟩ := (TopEdgeLabeling.labelGraph_adj x y).1 hxy
      rw [hget] at hk
      simp only [compl_adj, sup_adj, not_or]
      refine ⟨hne, fun hn => ?_, fun hn => ?_⟩
      · simp only [hn, if_true] at hk
        exact absurd hk (by decide)
      · simp only [hn, if_true] at hk
        split_ifs at hk <;> simp at hk
  · intro h C
    by_contra hcon
    push Not at hcon
    obtain ⟨h0, h1, h2⟩ := hcon
    refine h (C.labelGraph 0) (C.labelGraph 1) ⟨h0, h1, ?_⟩
    rw [← cliqueFree_compl]
    refine h2.anti fun x y hxy => ?_
    simp only [compl_adj, sup_adj, not_or, TopEdgeLabeling.labelGraph_adj, not_exists] at hxy
    obtain ⟨hne, hk0, hk1⟩ := hxy
    exact (TopEdgeLabeling.labelGraph_adj x y).2 ⟨hne, fin3_eq_two _ (hk0 hne) (hk1 hne)⟩

lemma ramsey33_eq (n : ℕ) : Erdos553.ramsey33 n = Erdos553Plby.threeColorRamseyNumber n := by
  unfold Erdos553.ramsey33 Erdos553Plby.threeColorRamseyNumber
  congr 1
  ext m
  simp only [Set.mem_ofPred_eq]
  exact prop_iff m n

theorem erdos_553 :
    Tendsto (fun n : ℕ ↦ (Erdos553.ramsey33 n : ℝ) / classicalRamsey 3 n) atTop atTop := by
  simp only [ramsey33_eq, classicalRamsey_eq]
  exact Erdos553Plby.erdos_553

end Bridge553
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«553»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/553.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+
+namespace Erdos553
+
+/-- `R(3,3,n)`: the smallest `m` such that every `3`-colouring of the edges of `K_m` contains a
+monochromatic triangle in one of the first two colours or a monochromatic `K_n` in the third
+colour. -/
+noncomputable def ramsey33 (n : ℕ) : ℕ :=
+  sInf {m | ∀ C : TopEdgeLabeling (Fin m) (Fin 3),
+    ¬ (C.labelGraph 0).CliqueFree 3 ∨ ¬ (C.labelGraph 1).CliqueFree 3 ∨
+      ¬ (C.labelGraph 2).CliqueFree n}
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/553.lean:46]: ramsey33 is the second ad hoc multicolour Ramsey number after 183.lean's multicolourTriangleRamsey; suggest a general multicolourRamsey in Ramsey.lean
